### PR TITLE
[Merged by Bors] - chore: `grind` tags for `Logic/Relation`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR annotates `Logic/Relation` to enable its results being user by `grind`.

### CODE REVIEW

File: Mathlib/Logic/Relation.lean [hunk 1]
```diff
@@ -300,6 +300,7 @@ inductive ReflGen (r : α → α → Prop) (a : α) : α → Prop
   | refl : ReflGen r a a
   | single {b} : r a b → ReflGen r a b
 
+
```
Comment (luisacicolini) [inline Mathlib/Logic/Relation.lean]:
```suggestion
```

File: Mathlib/Logic/Relation.lean [hunk 2]
```diff
@@ -309,8 +309,12 @@ inductive EqvGen : α → α → Prop
   | symm x y : EqvGen x y → EqvGen y x
   | trans x y z : EqvGen x y → EqvGen y z → EqvGen x z
 
+
```
Comment (luisacicolini) [inline Mathlib/Logic/Relation.lean]:
```suggestion
```

**Comment by euprunin** [comment]
For each annotated lemma, would it be possible to include a golfing of some proof that makes use of the added automation?

File: Mathlib/Logic/Relation.lean [hunk 3]
```diff
@@ -541,6 +550,7 @@ theorem TransGen.swap (h : TransGen r b a) : TransGen (swap r) a b := by
   | single h => exact TransGen.single h
   | tail _ hbc ih => exact ih.head hbc
 
+@[grind =_]
```
Comment (b-mehta) [inline Mathlib/Logic/Relation.lean]: This one is surprising to me, it'll fire any time it sees `TransGen r a b`, which I think is too general. I think this is much more reasonable:
```suggestion
@[grind =]
```

File: Mathlib/Logic/Relation.lean [hunk 4]
```diff
@@ -614,14 +628,15 @@ theorem ReflTransGen.swap (h : ReflTransGen r b a) : ReflTransGen (swap r) a b :
   | refl => rfl
   | tail _ hbc ih => exact ih.head hbc
 
+@[grind =_]
```
Comment (b-mehta) [inline Mathlib/Logic/Relation.lean]: as before

**Review by b-mehta — COMMENTED** [review]
This looks good to me, with two exceptions

File: Mathlib/Logic/Relation.lean (hunk 3 above)
Comment (luisacicolini) [reply Mathlib/Logic/Relation.lean]: thank you for taking a look! this does not seem to work, due to: 
```
invalid pattern(s) for `transGen_swap`
  [@TransGen #3 _ #1 #0]
the following theorem parameters cannot be instantiated:
  r : α → α → Prop
```

ang `grind?` suggested either `=_` or `.`

File: Mathlib/Logic/Relation.lean (hunk 4 above)
Comment (luisacicolini) [reply Mathlib/Logic/Relation.lean]: same as above

File: Mathlib/Logic/Relation.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Logic/Relation.lean]: Ah! Good point. This is happening because `swap` is an abbrev; but I think this means this lemma shouldn't be tagged. For instance
```
import Mathlib

open Function Relation

attribute [grind =_] transGen_swap

example {a b : ℕ} {r : Nat → Nat → Prop} (h : TransGen r a b) : 
    TransGen (swap r) a b := by 
  grind

example {a b : ℕ} {r : Nat → Nat → Prop} (h : TransGen (swap r) a b) : 
    TransGen r a b := by 
  grind
```
fails and similar for the `.` version.

**Comment by Ruben-VandeVelde** [comment]
bors r-

Tests are failing

**Comment by luisacicolini** [comment]
`EqvGen` was causing the `grind` issue. The last commit removes the `EqvGen` definition and lemmas :)

File: Mathlib/Logic/Relation.lean [hunk 5]
```diff
@@ -310,7 +310,11 @@ inductive EqvGen : α → α → Prop
   | trans x y z : EqvGen x y → EqvGen y z → EqvGen x z
 
 attribute [mk_iff] TransGen
+attribute [grind] TransGen
 attribute [refl] ReflGen.refl
+attribute [grind =] reflGen_iff
+attribute [grind] ReflGen
+attribute [grind] ReflTransGen
```
Comment (chenson2018) [inline Mathlib/Logic/Relation.lean]: For these `inductive` not in core, you can add these directly instead of adding the attribute afterwards. I think this is a little better for discoverability.

Comment (b-mehta) [reply Mathlib/Logic/Relation.lean]: I think this will also tag the constructors, which we don't want to do? Not certain.

Comment (chenson2018) [reply Mathlib/Logic/Relation.lean]: I believe it has the same semantics either way? For instance consider
```lean
import Mathlib

open Relation

attribute [grind] ReflGen

theorem refl' {α} {r : α → α → Prop} {a : α} : ReflGen r a a := by grind

/-- info: theorem refl'.{u_1} : ∀ {α : Type u_1} {r : α → α → Prop} {a : α}, ReflGen r a a :=
fun {α} {r} {a} => refl'._proof_1_1 -/
#guard_msgs in
#print refl'

/-- info: theorem refl'._proof_1_1.{u_1} : ∀ {α : Type u_1} {r : α → α → Prop} {a : α}, ReflGen r a a :=
fun {α} {r} {a} =>
  Classical.byContradiction fun h =>
    id (Eq.mp (Eq.trans (Eq.symm (eq_true (Eq.mp (Eq.refl (ReflGen r a a)) ReflGen.refl))) (eq_false h)) True.intro) -/
#guard_msgs in
#print refl'._proof_1_1
```
which is making use of the constructor.

Comment (luisacicolini) [reply Mathlib/Logic/Relation.lean]: afaiu it should be the same thing? @chenson2018 I implemented it in the last commit if you want to take a look (`TransGen` is not defined in this file (it's taken from lean core), so I maintained its tag)

Comment (chenson2018) [reply Mathlib/Logic/Relation.lean]: LGTM, this is exactly what I meant.

**Comment by luisacicolini** [comment]
@b-mehta I addressed @chenson2018's comment - let me know how it looks to you!

**Comment by b-mehta** [comment]
Thanks!

bors merge
